US04182758
Monosodium salt of 3-(N-formyl-N-hydroxyamino)propylphosphonic acid (2.05 g.) was dissolved in a mixture of 1 N aqueous sodium hydroxide solution (20 ml.), water (10 ml.) and acetone (10 ml.). To the solution was added dropwise a solution of p-chlorobenzoyl chloride (2.10 g.) in dry acetone (5 ml.) at 0°-5° C. with stirring. After the stirring was continued at the same temperature for 30 minutes, ethyl acetate (40 ml.) was added to the reaction mixture and then the resultant mixture was adjusted to pH 1 with 10% hydrochloric acid. The ethyl acetate layer was separated and then the aqueous layer was extracted again with ethyl acetate (20 ml.). The combined ethyl acetate layer was washed with aqueous sodium chloride solution, dried over magnesium sulfate and concentrated under reduced pressure to give an oily residue, which was crystallized with ethylether (40 ml.) to give crystals. The crystals were separated by filtration, washed twice with ethylether (10 ml.) to give crystalline 3-[N-(p-chlorobenzoyloxy)-N-formylamino] propylphosphonic acid (2.71 g.).

reactant | Monosodium | [Na] | Na
reactant | 3-(N-formyl-N-hydroxyamino)propylphosphonic acid | 2.05 g | C(=O)N(O)CCCP(O)(O)=O | C4H10NO5P
reactant | p-chlorobenzoyl chloride | 2.10 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1 N, 20 ml | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 3-[N-(p-chlorobenzoyloxy)-N-formylamino] propylphosphonic acid | 2.71 g | ClC1=CC=C(C(=O)ON(C=O)CCCP(O)(O)=O)C=C1 | C11H13ClNO6P
